US07737168B2
Preparation of 4-bromo-N-(octahydro-1,3-dioxo-2H-isoindol-2-yl)-benzamide
A mixture of cis-cyclohexanedicarboxylic anhydride (150 mg, 0.97 mmol) and 4-bromobenzoic hydrazide (220 mg, 1.02 mmol) in ethanol (10 mL) was heated under argon overnight. The solvent was removed via rotary evaporation. Purification by column chromatography on silica gel using 1/1 hexane/ethyl acetate as eluent provided 179 mg (52%) of the desired product as a white solid.

reactant | 4-bromobenzoic hydrazide | 1.02 mmol, 220 mg | BrC1=CC=C(C(=O)NN)C=C1 | C7H7BrN2O
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | 4-bromo-N-(octahydro-1,3-dioxo-2H-isoindol-2-yl)-benzamide | 179 mg, 52% | BrC1=CC=C(C(=O)NN2C(C3CCCCC3C2=O)=O)C=C1 | C15H15BrN2O3
